US05310735
1(a) (2S,4S)-4-(4-Methoxybenzylthio)-2-pyrrolidinecarboxylic acid
4.0 g of (2S,4S)-2-carbamoyl-4-(4-methoxybenzylthio)pyrrolidine hydrochloride were dissolved in 40 ml of 2N aqueous hydrochloric acid, and the resulting solution was stirred for 1.5 hours on an oil bath at 95°-100° C. At the end of this time, the solution was cooled to room temperature, and then about 40 ml of a 2N aqueous solution f sodium hydroxide were added to the solution, whilst stirring, to adjust its pH to a value of between 4 and 6. The crystals which separated were collected by filtration, washed with water and dried in the air, to yield 3.25 g of the title compound as crystals, melting at 198°-200° C.

reactant | (2S,4S)-2-carbamoyl-4-(4-methoxybenzylthio)pyrrolidine hydrochloride | 4.0 g | Cl.C(N)(=O)[C@H]1NC[C@H](C1)SCC1=CC=C(C=C1)OC
reactant | sodium hydroxide | [OH-].[Na+]
solvent | hydrochloric acid | 2N, 40 ml | Cl | ClH
product | (2S,4S)-4-(4-Methoxybenzylthio)-2-pyrrolidinecarboxylic acid | 3.25 g | COC1=CC=C(CS[C@H]2C[C@H](NC2)C(=O)O)C=C1 | C13H17NO3S
